US06787281B2
Synthesis of 2-methoxy-4-(phenylamino)-benzenediazonium hexadecyl sulfate (MSHDS) acid generator.
3.25 g of 2-methoxy-4-(phenylamino)-benzenediazonium bisulfate (Diverstec, Fort Collins, Colo.) in 50 ml of water was neutralized with 0.8 g of NaHCO3 in 25 ml water, and marked the container with A. 3.45 g of sodium hexadecyl sulfate (TCI America, Portland, Oreg.) was dissolved in 150 ml of water AT 50° C., and marked the container with B. While stirring, solution A was slowly added into solution B and the precipitate was formed after mixing was completed. The reaction mixture was stored in dark at 0-5° C. for 12 hours. The solid was collected by filtration and then dried by vacuum. The yield was 5.4 g.

reactant | 2-methoxy-4-(phenylamino)-benzenediazonium bisulfate | 3.25 g | S([O-])(O)(=O)=O.COC1=C(C=CC(=C1)NC1=CC=CC=C1)[N+]#N
reactant | NaHCO3 | 0.8 g | C(=O)(O)[O-].[Na+]
reactant | sodium hexadecyl sulfate | 3.45 g | S(=O)(=O)(OCCCCCCCCCCCCCCCC)[O-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | water | 25 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 2-methoxy-4-(phenylamino)-benzenediazonium hexadecyl sulfate | C(CCCCCCCCCCCCCCC)OS(=O)(=O)[O-].COC1=C(C=CC(=C1)NC1=CC=CC=C1)[N+]#N | InChI=1S/C16H34O4S.C13H12N3O/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-21(17,18)19;1-17-13-9-11(7-8-12(13)16-14)15-10-5-3-2-4-6-10/h2-16H2,1H3,(H,17,18,19);2-9,15H,1H3/q;+1/p-1
